US09056881B2
Potassium fluoride (0.122 g; 2.1 mmol) is suspended in cooled (0° C.) tris(pentafluoroethyl)phosphine oxide (7.378 g; 18.3 mmol) in a 100 ml glass flask, and phenol (1.797 g; 19.1 mmol) is added. The reaction suspension is warmed and stirred at 80° C. for 4.5 h. A pale-brown reaction suspension is then observed. After recondensation in vacuo (10−3 mbar) at 40° C., phenyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OC6H5, is isolated as clear and colourless liquid (3.127 g; 8.3 mmol) in a yield of 45% and a purity of 90%.

reactant | Potassium fluoride | 2.1 mmol, 0.122 g | [F-].[K+]
reactant | tris(pentafluoroethyl)phosphine oxide | 18.3 mmol, 7.378 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)(C(C(F)(F)F)(F)F)=O | C6F15OP
reactant | phenol | 19.1 mmol, 1.797 g | C1(=CC=CC=C1)O | C6H6O
product | (C2F5)2P(O)OC6H5 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OC1=CC=CC=C1 | C10H5F10O2P
